US05520906
b) 2,4-Bis(2-ethyl-hexylamino)-6-(4-camphylidenemethylene-anilino)-1,3,5-triazine
A reaction mixture comprising 33 g (0.26 mol) of 2-ethylhexylamine and 50 g (0.12 mol) of 2-(4-camphylidenemethylene-anilino)-4,6-dichloro-1,3,5-triazine in toluene is heated to 90° C. in the presence of sodium acetate. When the starting materials have reacted completely, the mixture is worked up. The product (95%) is a yellow viscous oil. UV (ethanol, c=1 mg/100 ml): λmax =345 nm, E=0.57.

reactant | 2-ethylhexylamine | 0.26 mol, 33 g | C(C)C(CN)CCCC | C8H19N
reactant | 2-(4-camphylidenemethylene-anilino)-4,6-dichloro-1,3,5-triazine | 0.12 mol, 50 g | C12(C(CC(CC1)C2(C)C)=C=C2CC=C(NC1=NC(=NC(=N1)Cl)Cl)C=C2)C | C20H22Cl2N4
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | ethanol | C(C)O | C2H6O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2,4-Bis(2-ethyl-hexylamino)-6-(4-camphylidenemethylene-anilino)-1,3,5-triazine | C(C)C(CNC1=NC(=NC(=N1)NCC(CCCC)CC)NC1=CCC(C=C1)=C=C1C2(CCC(C1)C2(C)C)C)CCCC | C36H58N6
